US05962458
TFA (4 ml) was added to a solution of 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(N-methyl-N-t-butoxycarbonylamino)ethoxy)quinazoline (390 mg, 0.82 mmol) in methylene chloride (4 ml) and the mixture stirred for 2 hours at ambient temperature. Toluene was added and the volatiles were removed by evaporation. The residue was dissolved in methylene chloride and 3M ethereal hydrogen chloride (1 ml) was added. The resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(methylamino)ethoxy)quinazoline hydrochloride hydrate (290 mg; 79%).

reactant | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(N-methyl-N-t-butoxycarbonylamino)ethoxy)quinazoline | 0.82 mmol, 390 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN(C(=O)OC(C)(C)C)C)C=C1)F | C23H26ClFN4O4
reactant | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(methylamino)ethoxy)quinazoline hydrochloride hydrate | 290 mg, 79% | O.Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCNC)C=C1)F | InChI=1S/C18H18ClFN4O2.ClH.H2O/c1-21-5-6-26-17-9-15-12(8-16(17)25-2)18(23-10-22-15)24-14-4-3-11(19)7-13(14)20;;/h3-4,7-10,21H,5-6H2,1-2H3,(H,22,23,24);1H;1H2
